US08981085B2
A solution of tert-butyl (R)-1-(5-bromo-3-((S)-tetrahydrofuran-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (150 mg, 0.295 mmol) in neat TFA (3 mL) was stirred at room temperature for 30 minutes and concentrated in vacuo. The resulting residue was purified by C-18 reverse phase flash chromatography (Biotage C-18, 12M+) on Biotage SP4 unit eluting with a gradient of 1-50% CH3CN/water gradient (14 CV). The product obtained was dissolved in minimal MeOH, diluted with CH2Cl2 (1 mL), and treated with 1M HCl in ether (3 mL). The resulting suspension was concentrated in vacuo and evaporated from CH2Cl2 (3×5 mL). The solid obtained was dried under high vacuum to provide (S)—N-(4-((R)-3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)tetrahydrofuran-2-carboxamide hydrochloride (117 mg, 0.243 mmol, 82.4% yield) as a solid. NMR (400 MHz, (CD3)2SO) δ 11.72 (s, 1H), 9.82 (s, 1H), 8.29 (br s, 3H), 8.21 (s, 1H), 7.89 (s, 1H), 4.39 (t, 1H), 4.02-3.97 (m, 1H), 3.85-3.79 (m, 2H), 3.63-3.55 (m, 1H), 3.42-3.35 (m, 1H), 3.33-3.21 (m, 2H), 2.97-2.89 (m, 1H), 2.27-2.19 (m, 1H), 2.17-2.09 (m, 1H), 1.97-1.92 (m, 1H), 1.89-1.83 (m, 2H), 1.79-1.73 (m, 1H), 1.49-1.40 (m, 1H); LCMS (APCI+) m/z 408, 410.1 (M+H)+; Retention time=2.18 minutes (Method 2).

reactant | tert-butyl (R)-1-(5-bromo-3-((S)-tetrahydrofuran-2-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.295 mmol, 150 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)[C@H]2OCCC2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H30BrN5O4
reactant | HCl | 1M | Cl | ClH
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 3 mL | CCOCC | C4H10O
product | (S)—N-(4-((R)-3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)tetrahydrofuran-2-carboxamide hydrochloride | 0.243 mmol, 117 mg, 82.4% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(=O)[C@H]2OCCC2 | InChI=1S/C17H22BrN5O2.ClH/c18-11-7-20-16-14(15(11)23-5-1-3-10(19)9-23)12(8-21-16)22-17(24)13-4-2-6-25-13;/h7-8,10,13H,1-6,9,19H2,(H,20,21)(H,22,24);1H/t10-,13+;/m1./s1
